US06204294B1
Preparation of N-(2-Hydroxy-4-cyanophenyl)-N′-(2-bromophenyl)-N″-cyanoguanidine.
To a stirred mixture of cyanamide (560 mg, 13.33 mmol) and Huinig's base (2.6 ml) in acetonitrile was added a solution of N-(2-Allyloxy-4-cyanophenyl)-N′-(2-bromophenyl)-carbodiimide (600 mg, 1.69 mmol) in acetonitrile (30 ml) dropwise. The reaction was stirred at rt for 15 min, then the solvent was removed under reduced pressure and the residue hydrolyzed with 0.5 M sodium dihydrogen phosphate. Ethyl acetate extractions of the aqueous mixture were washed with 0.5 M sodium dihydrogen phosphate and brine. After drying (MgSO4) filtration and evaporation under reduced pressure afforded a crude tan solid (500 mg). This was chromatographed on silica gel (50/50 ethyl acetate/hexane) to give the title compound (455 mg, 95%). MS(ES−) m/e 394, 396 [M−H]−

reactant | cyanamide | 13.33 mmol, 560 mg | N#CN | CH2N2
reactant | N-(2-Allyloxy-4-cyanophenyl)-N′-(2-bromophenyl)-carbodiimide | 1.69 mmol, 600 mg | C(C=C)OC1=C(C=CC(=C1)C#N)N=C=NC1=C(C=CC=C1)Br | C17H12BrN3O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(2-Hydroxy-4-cyanophenyl)-N′-(2-bromophenyl)-N″-cyanoguanidine | 455 mg, 95% | OC1=C(C=CC(=C1)C#N)NC(=NC#N)NC1=C(C=CC=C1)Br | C15H10BrN5O
